* Z:\mnt\design.r\spice\examples\2903-E1.asc
XU1 N001 0 N006 N007 N003 N002 LTC2903-E1
V1 N001 0 PULSE(0 5 0 5)
V2 N005 0 PULSE(0 2.5 0 2.5)
R5 N006 N005 36.8K
R2 N006 0 10K
R3 N007 0 10K
R4 N003 0 10K
R6 N008 N007 23.6K
R7 N004 N003 12.4K
R1 N002 N001 10K
V3 N008 0 PULSE(0 1.8 0 1.8)
V4 N004 0 PULSE(0 1.2 0 1.2)
.tran 5.5
.lib LTC2903-E1.sub
.backanno
.end
